US06479692B1
Synthesis of N-(4-Cyano-3-trifluoromethyl-phenyl)-2-oxo-propionamide
Pyruvic acid (3.0 mL; 43 mmol) and thionyl chloride (3.1 mL; 43 mmol) were added simultaneously via syringes to a stirring solution of 4-cyano-3-trifluoromethyl-aniline (1.00 g; 5.38 mmol) in 20 mL of dry DMA at room temperature. After 10 minutes, the reaction mixture was diluted with ether and extracted 3 times with saturated NaHCO3 and 4 times with cold saturated brine. The organic layer was dried with MgSO4 and concentrated by rotary evaporation. The product was purified by silica gel chromatography (ethyl acetate/hexanes [1/1]). Yield 1.11 g (81%); mp 147-148° C.; MS (FAB+) 257 (M+1); 1H NMR δ 9.12 (s, 1H), 8.15 (s, 1H), 8.01 (d, J=8.5), 7.84 (d, J=8.5, 1H), 2.59 (s, 3H); 13C NMR δ 195.66, 157.71, 140.29, 135.90, 134.2, 122.01, 121.85, 117.44, 115.12, 105.55, 23.92; 19F NMR δ −62.76. IR: 3330, 3112, 3065, 1719, 1540. UV: λmax 214, 248, 288. Anal. Calculated for C11H7F3N2O2: C, 51.57; H, 2.75; N, 10.94. Found: C, 51.69; H, 2.81; N, 10.86.

reactant | Pyruvic acid | 43 mmol, 3.0 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | thionyl chloride | 43 mmol, 3.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-cyano-3-trifluoromethyl-aniline | 5.38 mmol, 1.00 g | C(#N)C1=C(C=C(N)C=C1)C(F)(F)F | C8H5F3N2
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
solvent | ether | CCOCC | C4H10O
product | N-(4-Cyano-3-trifluoromethyl-phenyl)-2-oxo-propionamide | C(#N)C1=C(C=C(C=C1)NC(C(C)=O)=O)C(F)(F)F | C11H7F3N2O2
